US06423713B1
To a solution of 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole (1.95 g; 5.8 mmoles; prepared as set forth in Example A-169) and acetic acid (3.6 g, 60 mmol) containing 5A molecular sieves (6 g) was added [(1-ethoxycyclopropyl)oxy]trimethylsilane (6 g, 35 mmol). After stirring for 5 minutes, sodium cyanoborohydride (1.7 g, 26 mmol) was added and the mixture was refluxed under a nitrogen atmosphere for 6 hours. The reaction mixture was filtered hot and the filtrate concentrated in vacuo. Water (50 mL) was added and the solution made basic with 2N sodium hydroxide. The resultant gel was extracted with dichloroethane and the combined organic extracts dried (MgSO4). Evaporation again yielded a gel which was treated with hot methanol. Upon cooling, the product crystallized to give 1.4 g (63%) of 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl)-4-cyclopropylpiperazine, m. p. 264-265° C. Anal. Calc'd. for C21H22ClN5.1.5 H2O: C, 61.99; H, 6.19; N, 17.21. Found: C, 62.05; H, 5.81; N, 16.81.

reactant | 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole | ClC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)N1CCNCC1 | C18H18ClN5
reactant | acetic acid | 60 mmol, 3.6 g | C(C)(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 35 mmol, 6 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 26 mmol, 1.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl)-4-cyclopropylpiperazine | 1.4 g, 63% | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C1CC1)C1=CC=NC=C1 | C21H22ClN5
